US07989633B2
3-Methyl-5-(4-fluorophenyl)isoxazole
2.41 ml (22.19 mmol) of phenyl isocyanate are added dropwise at room temperature to a solution of 2 g (16.64 mmol) of 1-ethynyl-4-fluorobenzene, 0.4 ml (5.55 mmol) of nitroethane and 0.15 ml (1.11 mmol) of triethylamine in 40 ml of benzene. The reaction mixture is then stirred under reflux for 12 h. After cooling, the suspension is mixed with water (20 ml) and stirred at room temperature for a further 4 h. The precipitate is filtered off with suction and washed with benzene (10 ml). The organic phase of the filtrate is separated off, dried with magnesium sulfate and concentrated. The residue is purified by column chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 9:1). 0.62 g (63% of theory) of the title compound is obtained as a colorless oil.

reactant | phenyl isocyanate | 22.19 mmol, 2.41 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 1-ethynyl-4-fluorobenzene | 16.64 mmol, 2 g | C(#C)C1=CC=C(C=C1)F | C8H5F
reactant | nitroethane | 5.55 mmol, 0.4 ml | [N+](=O)([O-])CC | C2H5NO2
reactant | triethylamine | 1.11 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | water | 20 ml | O | H2O
product | 3-Methyl-5-(4-fluorophenyl)isoxazole | CC1=NOC(=C1)C1=CC=C(C=C1)F | C10H8FNO
